US08609855B2
Propan-2-yl 4-amino-3-chloro-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate
A 50 mL Schlenk flask was charged with propan-2-yl 4-amino-3,6-dichloro-5-fluoropicolinate (2.162 g, 8.09 mmol), 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane (2.775 g, 11.35 mmol) and CsF (2.601 g, 17.12 mmol). Acetonitrile (20 mL) and water (7 mL) were added. The solution was evacuated/backfilled with nitrogen (5×). Solid bis(triphenylphosphine)palladium(II) dichloride (Pd(PPh3)2Cl2; 281 mg, 4.9 mol %) was added. The solution was evacuated/backfilled with nitrogen (5×) and then heated at 70° C. under nitrogen for 3 h. After 3 h, the reaction mixture was allowed to cool to room temperature. The aqueous layer was separated. Water (20 mL) was added to the organic layer. The resulting dark brown precipitate was filtered and washed with water. The solid was dissolved in EtOAc (60 mL) and filtered to remove a small amount of black solid. The EtOAc solution was treated with activated carbon (175 mg) and filtered to give a wine-colored solution. Evaporation under reduced pressure gave a dark red solid. Purification (120 g silica column; 0-50% EtOAc-hexane gradient) gave a white solid (2.59 g, 82%): mp 110.6-112.1° C.; 1H NMR (400 MHz, CDCl3) δ 7.25 (m, 2H), 5.32 (septet, J=6.3 Hz, 1H, CHMe2), 5.07 (br s, 2H), 3.97 (d, JF-H=1.0 Hz, 3H, OMe), 1.40 (d, J=6.3 Hz, 6H, CHMe2); 13C{1H} NMR (101 MHz, CDCl3) δ 164.2 (CO2R), 153.8 (d, JF-C=254 Hz, C5/C2′), 145.5 (d, JF-C=258 Hz, C5/C2′), 145.0 (d, JF-C=5 Hz), 144.4 (d, JF-C=14 Hz), 140.0 (d, JF-C=13 Hz), 137.5 (d, JF-C=14 Hz), 129.7 (d, JF-C=3 Hz), 125.4 (d, JF-C=2 Hz, C5′/C6′), 125.2 (d, JF-C=3 Hz, C5′C6′), 122.7 (dd, JF-C=14, 4 Hz, C1′), 114.6 (C3), 70.2 (CHMe2), 61.5 (d, JF-C=4 Hz, OMe), 21.6 (CHMe2); 19F NMR (376 MHz, CDCl3) δ −128.16 (dd, JF-F=33.3 Hz, JF-H=2.5 Hz, phenyl F), −138.35 (d, JF-F=33.4 Hz, pyridine F5). Anal. Calcd for C16H14Cl2F2N2O3: C, 49.12; H, 3.61; N, 7.16. Found: C, 49.30; H, 3.69; N, 7.08. The product was found to be 97.5% pure by HPLC.

reactant | propan-2-yl 4-amino-3,6-dichloro-5-fluoropicolinate | 8.09 mmol, 2.162 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC(C)C)Cl | C9H9Cl2FN2O2
reactant | 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane | 11.35 mmol, 2.775 g | ClC1=C(C(=C(C=C1)B1OCCCO1)F)OC | C10H11BClFO3
reactant | CsF | 17.12 mmol, 2.601 g | [F-].[Cs+]
reactant | Acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 281 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | Propan-2-yl 4-amino-3-chloro-5-fluoro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate | 2.59 g, 82% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC(C)C)Cl | C16H14Cl2F2N2O3
